* Series RLC low-pass (2-pole), output across the capacitor
* f0 = 1/(2*pi*sqrt(L*C)) ~ 5.03 kHz
V1 1 0 AC 1 0
R1 1 2 100
L1 2 3 10m
C1 3 0 100n
.ac dec 30 10 1meg
.plot ac v(3)
